US04859684
A solution of 2.99 parts of 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine, 1.85 parts of ethyl ethanimidate hydrochloride and 40 parts of methanol was stirred for 16 hours at room temperature. The solvent was evaporated and the residue was dissolved in a dilute hydrochloric acid solution. The whole was alkalized with ammonia and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol saturated with ammonia (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was dried in vacuo, yielding 2.9 parts (89.8%) of 5-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2-methyl-1H-benzimidazole; mp. 117.1° C. (compound 122).

reactant | 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine | ClC=1C=C(C=CC1)C(C=1C=C(C(=CC1)N)N)N1C=NC=C1 | C16H15ClN4
reactant | ethyl ethanimidate hydrochloride | Cl.C(C)(OCC)=N
solvent | methanol | CO | CH4O
product | 5-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-2-methyl-1H-benzimidazole | 89.8% | ClC=1C=C(C=CC1)C(C1=CC2=C(NC(=N2)C)C=C1)N1C=NC=C1 | C18H15ClN4
